US05288514
4-(4-(2-Amino-5-chloro-benzoyl)-phenoxymethyl) phenoxyacetic acid allyl ester
A solution was formed by dissolving 2-amino-5-chloro-4'-hydroxybenzophenone (1.72 g, 8.07 mmol) in 40 mL of DMF. Potassium bis(trimethylsilyl)amide that was 0.5M in toluene (16.1 mL, 8.07 mmol, 1.0 equivalents) was added dropwise with stirring. Allyl 2-(4-bromomethylphenoxy)acetate (2.30 g, 8.07 mmol, 1.0 equivalents) was then added and the resulting orange slurry was stirred at ambient temperature for 45 minutes. The slurry was concentrated in vacuo, then diluted with CH2Cl2 (150 mL) and was extracted with 1N aqueous sodium bicarbonate (100 mL) and with 1N aqueous sodium chloride (100 mL), then dried over sodium sulfate and concentrated in vacuo to give the product as a yellow solid which was approximately 95% pure and was taken to the next step without purification. The product had Rf of 0.55 in 50:50:2 ethyl acetate/hexane/triethylamine. The structure was confirmed by proton NMR, carbon-13 NMR, and electron impact mass spectroscopy.

reactant | 2-amino-5-chloro-4'-hydroxybenzophenone | 8.07 mmol, 1.72 g | NC1=C(C(=O)C2=CC=C(C=C2)O)C=C(C=C1)Cl | C13H10ClNO2
reactant | Potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | toluene | 8.07 mmol, 16.1 mL, 1.0 equivalents | C1(=CC=CC=C1)C | C7H8
reactant | Allyl 2-(4-bromomethylphenoxy)acetate | 8.07 mmol, 2.30 g, 1.0 equivalents | BrCC1=CC=C(OCC(=O)OCC=C)C=C1 | C12H13BrO3
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-(4-(2-Amino-5-chloro-benzoyl)-phenoxymethyl) phenoxyacetic acid allyl ester | C(C=C)OC(COC1=CC=C(C=C1)COC1=CC=C(C=C1)C(C1=C(C=CC(=C1)Cl)N)=O)=O | C25H22ClNO5
